US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-hydroxybenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.56 mmol) and 4-hydroxybenzaldehyde (68 mg, 0.56 mmol) similar to Example 3 and isolated as a yellow solid (47 mg, 29%). 1H NMR (CDCl3): 9.00 (s, 1H), 7.68 (s, 1H), 7.52 (d, J=8.7 Hz, 2H), 7.43 (d, J=6.9 Hz, 1H), 6.88 (d, J=8.7 Hz, 2H), 6.23-6.14 (m, 2H), 4.30-4.26 (m, 1H), 3.05 (s, 1H), 2.96 (s, 1H), 1.94-1.86 (m, 1H), 1.66 (d, J=9.0 Hz, 1H), 1.51 (d, J=9.0 Hz, 1H), 1.45-1.38 (m, 1H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.56 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-hydroxybenzaldehyde | 0.56 mmol, 68 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-hydroxybenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)O)=S | C15H17N3OS
